US05536701
3,5-Bis[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine (Compound No. 11, 3.0 g, 0.0073 mole) and 2.5N NaOH (14.7 mL, 0.0367 mole) were stirred in dimethylsulfoxide (45 mL) at room temperature under N2 for 15 minutes. The mixture was then heated to 80° C. for 5 minutes. The mixture was cooled to room temperature and allowed to stir for 1 h. The mixture was then poured into water and made acidic with 12N HCl. The mixture was extracted 3×200 mL with ethyl acetate and the organic layer was dried (MgSO4), filtered and evaporated in vacuo. The residue was triturated with a minimum amount of ethyl acetate and filtered to collect the product. The mother liquor was condensed and this process was repeated two more times. 6-[[1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]-4-pyridazinol (1.35 g, 71% yield) was obtained as a white solid.

reactant | 3,5-Bis[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine | CN1N=C(C=C1OC=1N=NC=C(C1)OC1=CC(=NN1C)C(F)(F)F)C(F)(F)F | C14H10F6N6O2
reactant | NaOH | 0.0367 mole, 2.5N, 14.7 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | HCl | 12N | Cl | ClH
solvent | dimethylsulfoxide | 45 mL | CS(=O)C | C2H6OS
product | 6-[[1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]-4-pyridazinol | 1.35 g, 71% yield | CN1N=C(C=C1OC1=CC(=CN=N1)O)C(F)(F)F | C9H7F3N4O2
